* URN Model Transient Verification
* Generated by run_ltspice_verification.py
* This is ACTUAL LTspice simulation

* Input source
V1 in 0 PULSE(0 1 0 1n 1n 5m 10m)

* URN_MODEL equivalent circuit
R_series in 1 1.20754
* Debye 0: tau = 9.25e-07 s
R_d0 1 2 1.82601
C_d0 2 0 5.06749e-07
* Debye 1: tau = 8.30e+00 s
R_d1 2 3 21.5324
C_d1 3 0 0.385672
* Cole-Cole 0: tau = 1.33e-02 s
R_cc0 3 4 4.63507
C_cc0 4 0 0.00287506
* CPE 0: n = 0.233
R_cpe0_0 4 5 0.1
C_cpe0_0 5 0 1e-06
R_cpe0_1 5 6 1
C_cpe0_1 6 0 1e-07
* CPE 1: n = 0.238
R_cpe1_0 6 7 0.1
C_cpe1_0 7 0 1e-06
R_cpe1_1 7 8 1
C_cpe1_1 8 0 1e-07
* Warburg 0
R_w0_0 8 9 0.1
C_w0_0 9 0 0.001
R_w0_1 9 10 0.2
C_w0_1 10 0 0.0005
R_w0_2 10 11 0.4
C_w0_2 11 0 0.00025
R_load 11 0 1k

* Simulation command
.tran 0 20m 0 10u

* Output
.save V(in) V(11) I(V1)
.backanno
.end